US06858585B1
To a solution of the benzyl ester (3.11 g) obtained in Synthesis Example 80 in methanol (70 ml) was added p-toluenesulfonic acid (0.35 g) and the mixture was heated under reflux for one hour. After cooling to room temperature, isopropyl ether and water were added thereto. The organic layer was separated and the aqueous layer was extracted with isopropyl ether. The extract was combined with the organic layer and washed with water, a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. After the solvent was removed in vacuo under reduced pressure, the residue was purified by a silica gel column chromatography (silica gel 70 g, hexane: ethyl acetate=100:15) to afford 1.38 g of benzyl 6-methyl-3-hydroxyheptanoate.

reactant | p-toluenesulfonic acid | 0.35 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | water | O | H2O
reactant | methanol | 70 ml | CO | CH4O
product | benzyl 6-methyl-3-hydroxyheptanoate | 1.38 g | CC(CCC(CC(=O)OCC1=CC=CC=C1)O)C | C15H22O3
